US09376422B2
Step 1: Synthesis of methyl 5-chloro-2-[2-(trimethylsilyl)ethynyl]benzoate
To a stirred solution of methyl 2-bromo-5-chlorobenzoate (14.8 g, 59 mmol) in triethylamine (124 ml, 890 mmol) was added copper iodide (339 mg, 1.8 mmol) and triphenylphosphine (778 mg, 3.0 mmol) at room temperature, under nitrogen. This mixture was purged with nitrogen before the addition of ethynyl(trimethyl)silane (12.5 ml, 89 mmol) and Pd(OAc)2 (266 mg, 1.2 mmol). The reaction mixture was stirred at 50° C. for 20 hours and concentrated in-vacuo. The residue was dissolved in deionized water (50 ml) and EtOAc (50 ml) and filtered through Celite. The filter cake was washed with EtOAc (50 ml) before the phases were separated and the aqueous layer was extracted with EtOAc (2×50 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography (10 g Silica Isolute cartridge, 1-15% EtOAc:Heptanes) to give the title compound (16.2 g, 93%) as an orange solid. LC-MS 91%, m/z=267.4, 268.9; 1H NMR (500 MHz, Chloroform-d) δ ppm 7.90 (d, J=2.21 Hz, 1H) 7.52 (d, J=8.35 Hz, 1H) 7.42 (dd, J=8.28, 2.29 Hz, 1H) 3.93 (s, 3H) 0.28 (s, 9H).

reactant | methyl 2-bromo-5-chlorobenzoate | 59 mmol, 14.8 g | BrC1=C(C(=O)OC)C=C(C=C1)Cl | C8H6BrClO2
reactant | triethylamine | 890 mmol, 124 ml | C(C)N(CC)CC | C6H15N
reactant | ethynyl(trimethyl)silane | 89 mmol, 12.5 ml | C(#C)[Si](C)(C)C | C5H10Si
catalyst | copper iodide | 1.8 mmol, 339 mg | [Cu](I)I
catalyst | Pd(OAc)2 | 1.2 mmol, 266 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | triphenylphosphine | 3.0 mmol, 778 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | methyl 5-chloro-2-[2-(trimethylsilyl)ethynyl]benzoate | 16.2 g, 93% | ClC=1C=CC(=C(C(=O)OC)C1)C#C[Si](C)(C)C | C13H15ClO2Si
